US05929085
(a) 3-Methyl-7-nitro-3,4-dihydroisoquinoline
3-Methyl-3,4-dihydroisoquinoline (7.0 g, 48.2 mmol) was dissolved in concentrated sulfuric acid (150 ml) and to this was added potassium nitrate (4.9 g, 50.0 mmol). The mixture was allowed to stir overnight, dumped onto ice, and neutralized with the addition of concentrated ammonium hydroxide. The precipated solids were collected by filtration, washed, and air-dried: 7.5 g (82%), m.p. 110-2° C.

reactant | 3-Methyl-3,4-dihydroisoquinoline | 48.2 mmol, 7.0 g | CC1N=CC2=CC=CC=C2C1 | C10H11N
reactant | potassium nitrate | 50.0 mmol, 4.9 g | [N+](=O)([O-])[O-].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Methyl-7-nitro-3,4-dihydroisoquinoline | CC1N=CC2=CC(=CC=C2C1)[N+](=O)[O-] | C10H10N2O2
